US04303655
To a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-propanolsulfonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (8.0 g.), methanol (160 ml.) and 1 N sodium hydroxide aqueous solution (13.6 ml.) was dropwise added a mixture of sodium borohydride (0.26 g.) and ethanol (15 ml.) over 20 minutes under stirring and ice-cooling. The mixture was further stirred for 1 hour, and then methanol was distilled off. The residue was dissolved in water, and the solution was washed with ethyl acetate. To the aqueous solution was added ethyl acetate, and the mixture was adjusted to pH 2 with 10% hydrochloric acid, and then the ethyl acetate layer was separated from the mixture. The remaining aqueous layer was saturated with sodium chloride and then extracted with ethyl acetate. The ethyl acetate extract was combined with the separated ethyl acetate layer, washed with a saturated aqueous solution of sodium chloride and then dried. The solvent was distilled off, and the residue was washed with diethyl ether and then dried to give 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-propanesulfonylimino-1,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (5.5 g.), mp. 160° to 170° C. (dec.).

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | 8.0 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NS(=O)(=O)CCC)=O)=O | C18H20N8O7S4
reactant | methanol | 160 ml | CO | CH4O
reactant | sodium hydroxide | 1 N, 13.6 ml | [OH-].[Na+]
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NS(=O)(=O)CCC)O)=O)=O | C18H22N8O7S4
